### PR TITLE
[Merged by Bors] - feat(RingTheory/Presentation): core of a presentation

### PR DESCRIPTION
**Pull request by chrisflav**
If `P` is a presentation of `S` as an `R`-algebra and `R₀` a subring of `R` containing the coefficients of the relations of `P`, then there exists an `R₀`-algebra `S₀` such that `S` is isomorphic to the base change of `S₀` to `R`.

This is a tool to remove Noetherian hypothesis in certain situations.

---

- [x] depends on: #24788 
- [x] depends on: #24786 
- [x] depends on: #24785 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Algebra/Algebra/Tower.lean [hunk 1]
```diff
@@ -225,6 +225,17 @@ theorem restrictScalars_injective :
...
+lemma restrictScalars_symm_apply (f : A ≃ₐ[S] B) (x : B) :
+    (f.restrictScalars R).symm x = f.symm x := rfl
+
+@[simp]
+lemma coe_restrictScalars_symm (f : A ≃ₐ[S] B) :
+    ((f.restrictScalars R).symm : B ≃+* A) = f.symm := rfl
+
+@[simp]
+lemma coe_restrictScalars_symm' (f : A ≃ₐ[S] B) :
+    ((restrictScalars R f).symm : B → A) = f.symm := rfl
```
Comment (erdOne) [inline Mathlib/Algebra/Algebra/Tower.lean:237]: Maybe the former should be `restrictScalars_toRingEquiv_symm` and the latter be unprimed.

File: Mathlib/RingTheory/Extension/Presentation/Core.lean [hunk 2]
```diff
@@ -0,0 +1,201 @@
...
+  · simp [IsScalarTower.algebraMap_apply R₀ R S]
+  · simp_all
+  · simp_all
+
+variable [P.IsCore R₀]
+
+lemma coeffs_subset_range : (P.coeffs : Set R) ⊆ Set.range (algebraMap R₀ R) :=
+  IsCore.coeffs_subset_range
+
+instance (s : Set R) : P.IsCore (Algebra.adjoin R₀ s) := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Extension/Presentation/Core.lean]: Should this just be If `P.IsCore R0` and `R0 -> R1 -> R` is a scalar tower, then `P.IsCore R1`?

File: Mathlib/RingTheory/Extension/Presentation/Core.lean [hunk 3]
```diff
@@ -0,0 +1,201 @@
...
+  refine ⟨subset_trans (P.coeffs_subset_range R₀) ?_⟩
+  refine subset_trans (Subalgebra.range_le (adjoin R₀ s)) (by simp)
+
+lemma IsCore.coeffs_relation_mem_range (x : σ) :
+    ((P.relation x).coeffs : Set R) ⊆ Set.range (algebraMap R₀ R) :=
```
Comment (erdOne) [inline Mathlib/RingTheory/Extension/Presentation/Core.lean]:
```suggestion
    ↑(P.relation x).coeffs ⊆ Set.range (algebraMap R₀ R) :=
```
(not tested)

File: Mathlib/RingTheory/Extension/Presentation/Core.lean [hunk 4]
```diff
@@ -0,0 +1,201 @@
...
+  subset_trans (P.coeffs_relation_subset_coeffs x) IsCore.coeffs_subset_range
+
+lemma IsCore.mem_range_map_core (x : σ) :
```
Comment (erdOne) [inline Mathlib/RingTheory/Extension/Presentation/Core.lean]:
```suggestion
lemma IsCore.relation_mem_range_map (x : σ) :
```

File: Mathlib/RingTheory/Extension/Presentation/Core.lean [hunk 5]
```diff
@@ -0,0 +1,201 @@
...
+  rw [← aeval_map_core, map_coreRelation, aeval_val_relation]
+
+@[simp]
+lemma algebraTensorAlgEquiv_symm_relation (r : σ) :
+    (MvPolynomial.algebraTensorAlgEquiv R₀ R).symm (P.relation r) =
+      1 ⊗ₜ P.coreRelation R₀ r := by
+  rw [← map_coreRelation R₀, MvPolynomial.algebraTensorAlgEquiv_symm_map]
+
+@[simp]
+lemma _root_.Ideal.Quotient.mk_span_range {R : Type*} [CommRing R]
```
Comment (erdOne) [inline Mathlib/RingTheory/Extension/Presentation/Core.lean]: This looks out of place.

File: Mathlib/RingTheory/Extension/Presentation/Core.lean [hunk 6]
```diff
@@ -0,0 +1,201 @@
...
+  simp
+
+private lemma inv_comp_hom :
+    (P.tensorCoreModelInv R₀).comp (P.tensorCoreModelHom R₀) = AlgHom.id R _ := by
+  ext x
+  obtain ⟨x, rfl⟩ := Ideal.Quotient.mk_surjective x
+  simp
+
+/-- The natural isomorphism `R ⊗[R₀] S₀ ≃ₐ[R] S`. -/
+noncomputable def tensorCoreModelEquiv : R ⊗[R₀] P.CoreModel R₀ ≃ₐ[R] S :=
```
Comment (erdOne) [inline Mathlib/RingTheory/Extension/Presentation/Core.lean]: Can you add some simp lemmas?

File: Mathlib/Algebra/Algebra/Tower.lean (hunk 1 above)
Comment (chrisflav) [reply Mathlib/Algebra/Algebra/Tower.lean:237]: This is in sync with `coe_restrictScalars` and `coe_restrictScalars'`. Should I still change it? Or change both? Or leave it for a follow-up?

File: Mathlib/RingTheory/Extension/Presentation/Core.lean (hunk 2 above)
Comment (chrisflav) [reply Mathlib/RingTheory/Extension/Presentation/Core.lean]: This can't be an instance, but I added it as a lemma.

File: Mathlib/RingTheory/FiniteType.lean [hunk 7]
```diff
@@ -209,6 +209,13 @@ theorem isNoetherianRing (R S : Type*) [CommRing R] [CommRing S] [Algebra R S]
 theorem _root_.Subalgebra.fg_iff_finiteType (S : Subalgebra R A) : S.FG ↔ Algebra.FiniteType R S :=
   S.fg_top.symm.trans ⟨fun h => ⟨h⟩, fun h => h.out⟩
 
+lemma adjoin_of_finite {A : Type*} [CommSemiring A] [Algebra R A] {t : Set A} (h : Set.Finite t) :
+    FiniteType R (Algebra.adjoin R t) := by
+  rw [Algebra.adjoin_eq_range]
+  have : Finite t := Set.Finite.to_subtype h
+  exact .of_surjective (.rangeRestrict (MvPolynomial.aeval Subtype.val))
+    (AlgHom.rangeRestrict_surjective _)
```
Comment (erdOne) [inline Mathlib/RingTheory/FiniteType.lean]: Probably easier to go through `Subalgebra.fg_iff_finiteType`

File: Mathlib/RingTheory/TensorProduct/MvPolynomial.lean [hunk 8]
```diff
@@ -237,6 +237,26 @@ lemma algebraTensorAlgEquiv_symm_monomial (m : σ →₀ ℕ) (a : A) :
     nth_rw 2 [← mul_one a]
     rw [Algebra.TensorProduct.tmul_mul_tmul]
 
+@[simp]
+lemma algebraTensorAlgEquiv_symm_comp_aeval :
+    (((algebraTensorAlgEquiv (σ := σ) R A).symm.restrictScalars R) :
+        MvPolynomial σ A →ₐ[R] A ⊗[R] MvPolynomial σ R).comp
+      (MvPolynomial.mapAlgHom (R := R) (S₁ := R) (S₂ := A) (Algebra.ofId R A)) =
+      MvPolynomial.aeval fun i ↦ 1 ⊗ₜ MvPolynomial.X i := by
```
Comment (erdOne) [inline Mathlib/RingTheory/TensorProduct/MvPolynomial.lean]: Shouldn't the RHS just be `Algebra.TensorProduct.includeRight`?

File: Mathlib/RingTheory/Extension/Presentation/Core.lean [hunk 9]
```diff
@@ -0,0 +1,208 @@
...
+
+instance [Finite σ] : FiniteType ℤ P.Core := .adjoin_of_finite P.finite_coeffs
+
+variable (P) in
+/--
+A ring `R₀` is a core for the presentation `P` if the coefficients of the relations of `P`
+lie in the image of `R₀` in `R`.
+The smallest subring of `R` satisfying this is given by `Algebra.Presentation.Core P`.
+-/
+class IsCore (R₀ : Type*) [CommRing R₀] [Algebra R₀ R] [Algebra R₀ S] [IsScalarTower R₀ R S] where
```
Comment (erdOne) [inline Mathlib/RingTheory/Extension/Presentation/Core.lean]: I find these names quite confusing, especially the fact that a subring could be `IsCore` but not equal to `core`. Are these names established in the literature?

Comment (chrisflav) [reply Mathlib/RingTheory/Extension/Presentation/Core.lean]: Changed to `Presentation.HasCoeffs`.

File: Mathlib/Algebra/Algebra/Tower.lean (hunk 1 above)
Comment (erdOne) [reply Mathlib/Algebra/Algebra/Tower.lean:237]: I'd say this is technical debt but probably not your (or this PR's) problem.

File: Mathlib/RingTheory/Extension/Presentation/Core.lean [hunk 10]
```diff
@@ -0,0 +1,204 @@
...
+noncomputable def relationOfHasCoeffs (r : σ) : MvPolynomial ι R₀ :=
+  (HasCoeffs.relation_mem_range_map (P := P) R₀ r).choose
+
+lemma map_relationOfHasCoeffs (r : σ) :
+    MvPolynomial.map (algebraMap R₀ R) (P.relationOfHasCoeffs R₀ r) = P.relation r :=
+  (HasCoeffs.relation_mem_range_map R₀ r).choose_spec
+
+@[simp]
+lemma aeval_val_relationOfHasCoeffs (r : σ) :
+    (MvPolynomial.aeval P.val) (P.relationOfHasCoeffs R₀ r) = 0 := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Extension/Presentation/Core.lean]:
```suggestion
    MvPolynomial.aeval P.val (P.relationOfHasCoeffs R₀ r) = 0 := by
```

File: Mathlib/RingTheory/Extension/Presentation/Core.lean [hunk 11]
```diff
@@ -0,0 +1,204 @@
...
+@[simp]
+lemma algebraTensorAlgEquiv_symm_relation (r : σ) :
+    (MvPolynomial.algebraTensorAlgEquiv R₀ R).symm (P.relation r) =
+      1 ⊗ₜ P.relationOfHasCoeffs R₀ r := by
+  rw [← map_relationOfHasCoeffs R₀, MvPolynomial.algebraTensorAlgEquiv_symm_map]
+
+/-- The model of `S` over a `R₀` that contains the coefficients of `P` is `R₀[X]` quotiented by the
+same relations. -/
+abbrev modelOfHasCoeffs : Type _ :=
+  MvPolynomial ι R₀ ⧸ (Ideal.span <| Set.range (P.relationOfHasCoeffs R₀))
```
Comment (erdOne) [inline Mathlib/RingTheory/Extension/Presentation/Core.lean]: Note that this might be a source of slowdowns. But should be fine for now.

**Review by erdOne — APPROVED** [review]
Thanks!
maintainer merge

File: Mathlib/RingTheory/Extension/Presentation/Core.lean (hunk 11 above)
Comment (chrisflav) [reply Mathlib/RingTheory/Extension/Presentation/Core.lean]: Oh this one should probably be capitalized.

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
